US04064244
EXAMPLE 3: 2-[4(2-hydroxyethyl)-1-piperazinyl]-4-tert.butyl-thiazole
5 g of 4-(2-hydroxyethyl)-1-piperazinyl-thiocarboxamide are added to a solution of 3.6 g of bromopinacoline in 70 cc of ethanol, and the reaction mixture is subsequently heated to the boil at reflux for 2 hours. The mixture is then concentrated by evaporation in a vacuum. The residue is dissolved in a small amount of water and is divided between chloroform and a concentrated aqueous sodium hydroxide solution. The chloroform phase is washed with water, dried over sodium sulphate and concentrated by evaporation in a vacuum. Hydrochloric acid in ethanol is added to the resulting oil and the solution is concentrated by evaporation. After recrystallizing the residue from a small amount of ethanol/diethyl ether, 2-[4-(2-hydroxyethyl)-1-piperazinyl]-4-tert.butyl-thiazole dihydrochloride, having a M.P. of 133°-142°, is obtained. The free base is obtained is known manner from the dihydrochloride by treatment with an aqueous sodium hydroxide solution.

reactant | 4-(2-hydroxyethyl)-1-piperazinyl-thiocarboxamide | 5 g | OCCN1CCN(CC1)C(=S)N | C7H15N3OS
reactant | bromopinacoline | 3.6 g | CC(C)(C)C(=O)CBr | C6H11BrO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 70 cc | C(C)O | C2H6O
product | 2-[4(2-hydroxyethyl)-1-piperazinyl]-4-tert.butyl-thiazole | OCCN1CCN(CC1)C=1SC=C(N1)C(C)(C)C | C13H23N3OS
